US09085540B2
To a mixture of 4-[3-(2,5-dimethyl-1H-pyrrol-1-yl)-1-methyl-1H-pyrazol-5-yl]-1-methyl-1,2,3,6-tetrahydropyridine (1.06 g) and hydrochloric acid hydroxylamine (2.73 g) in ethanol (10 mL) and water (1 mL) was added triethylamine (1.10 mL), followed by stirring at 110° C. for 5 hours. After leaving to be cooled, the mixture was neutralized with a saturated aqueous sodium hydrogen carbonate solution, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (NH2 type: eluent; chloroform:methanol=100:0-98:2) to obtain 1-methyl-5-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-pyrazol-3-amine (574 mg) as a pale brown solid.

reactant | 4-[3-(2,5-dimethyl-1H-pyrrol-1-yl)-1-methyl-1H-pyrazol-5-yl]-1-methyl-1,2,3,6-tetrahydropyridine | 1.06 g | CC=1N(C(=CC1)C)C1=NN(C(=C1)C=1CCN(CC1)C)C | C16H22N4
reactant | hydrochloric acid hydroxylamine | 2.73 g | NO.Cl
reactant | triethylamine | 1.10 mL | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 1 mL | O | H2O
product | 1-methyl-5-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-pyrazol-3-amine | 574 mg | CN1N=C(C=C1C=1CCN(CC1)C)N | C10H16N4
